US07402684B2
[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester:
(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidine (200 mg, 0.658 mmol) was taken into DMF (2 mL), and t-butylbromoacetate (141 mg, 0.724 mmol) was added, followed by potassium carbonate (182 mg, 1.317 mmol). The mixture was heated to 60° C. and left to react overnight. The mixture was diluted with water, and extracted with ethyl acetate (3×). The combined ethyl acetate layers were washed with brine, dried over sodium sulfate, and concentrated to dryness. The compound was then purified by flash chromatography (eluted with 0.5% methanol in dichloromethane with a 40:1 silica ratio) to obtain the title product (161 mg, 0.423 mmol, 64% yield); LCMS; m/z 381.52. found 381 (M). 1H NMR (400 MHz, CDCl3) δ 1.45 (s, 9H), 1.66-1.73 (m, 2H), 1.79-1.85 (m, 2H), 1.99-2.06 (m, 1H), 2.63-2.69 (m, 1H), 3.18-3.22 (m, 2H), 3.40 (d, J=17.2, 1H), 3.59 (d, J=16.8, 1H), 3.79-3.83 (m, 1H), 3.91-3.95 (m, 2H), 6.82 (d, J=8.88, 2H), 7.08 (d, J=8.8, 2H), 7.15-7.27 (m, 5H).

reactant | (S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidine | 0.658 mmol, 200 mg | C(C1=CC=CC=C1)C1=CC=C(OC[C@H]2NCCC2)C=C1 | C18H21NO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | t-butylbromoacetate | 0.724 mmol, 141 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | potassium carbonate | 1.317 mmol, 182 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | [(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester | 0.423 mmol, 161 mg, 64% yield | C(C)(C)(C)OC(CN1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C24H31NO3
